US06177440B1
A. Preparation of 9-benzyl-5-carbamoyl-4-methoxy-1-fluorocarbazole
A solution of 0.458 g of 9-benzyl-5-methoxy-8-fluoro-1,2,3,4-tetrahydrocarbazole-4-carboxamide in 13 ml of dry dioxane under nitrogen was treated with 0.59 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and refluxed for one hour. The reaction mixture was cooled and filtered and the precipitate was washed with 15 ml of dioxane. The filtrate and washing were poured into saturated sodium bicarbonate solution and extracted three times with ethyl acetate. The extracts were washed with saturated sodium bicarbonate, with water and then with brine; dried over magnesium sulfate and concentrated. This residue was chromatographed on silica gel using dichloromethane/0-2% methanol to afford 0.45 g of subtitle compound. ESIMS m/e 349 (M++1)

reactant | 9-benzyl-5-methoxy-8-fluoro-1,2,3,4-tetrahydrocarbazole-4-carboxamide | 0.458 g | C(C1=CC=CC=C1)N1C2=C(C=CC(=C2C=2C(CCCC12)C(=O)N)OC)F | C21H21FN2O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.59 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
product | 9-benzyl-5-carbamoyl-4-methoxy-1-fluorocarbazole | 0.45 g | C(C1=CC=CC=C1)N1C2=CC=CC(=C2C=2C(=CC=C(C12)F)OC)C(N)=O | C21H17FN2O2
